US06365736B1
2-Methyl-3-oxo-6-(2-amino-ethyl)-3,4-dihydro-2H-1,4-benzoxazine
2 g (8.5 mmol) of 2-methyl-3-oxo-6-(2-nitro-ethenyl)-3,4-dihydro-2H-1,4-benzoxazine is mixed with 80 ml of acetic acid and 1.6 ml of concentrated sulfuric acid and, after 200 mg of platinum dioxide is added, it is reduced in an autoclave. The catalyst is then suctioned off, and the batch is spun in until a dry state is reached. The remaining residue is chromatographed on silica gel (mobile solvent: isopropanol/ammonia). 923.5 mg (52.4%) of the described compound is obtained.

reactant | 2-methyl-3-oxo-6-(2-nitro-ethenyl)-3,4-dihydro-2H-1,4-benzoxazine | 8.5 mmol, 2 g | CC1OC2=C(NC1=O)C=C(C=C2)C=C[N+](=O)[O-] | C11H10N2O4
reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
catalyst | platinum dioxide | 200 mg | [Pt](=O)=O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-3-oxo-6-(2-amino-ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 923.5 mg, 52.4% | CC1OC2=C(NC1=O)C=C(C=C2)CCN | C11H14N2O2
